US09056859B2
A stirred mixture of 2-chloro-4-nitrobenzoic acid (24.2 g, 120 mmol), methyldisulfide (5.6 mL), copper powder (7.6 g) in 160 mL of DMA was heated to 135° C. during 1 hours, kept at that temperature for 90 minutes, and then heated at 165° C. for 2 hours. After the reaction was completed, the solvent was removed in vacuum to afford the crude compound, which was poured into 40% w/v aqueous sodium hydroxide solution. The mixture was filtered and the filtrate was washed with EtOAc and the aqueous layer was acidified with concentrated aqueous hydrochloric acid and filtered. The solid residue was washed with water and then dissolved in EtOAc, and the solution was dried over anhydrous Na2SO4 and evaporated to dryness under reduced pressure. The residue was crystallized from aqueous EtOH to give 2-(methylsulfanyl)-4-nitrobenzoic acid. 1H-NMR (400 MHz, MeOD) δ ppm 8.2˜8.33 (rn, 1H), 8.12˜8.17 (m, 1H), 7.95˜7.98 (m, 1H), 2.53 (s, 3H).

reactant | 2-chloro-4-nitrobenzoic acid | 120 mmol, 24.2 g | ClC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | methyldisulfide | 5.6 mL | CSSC | C2H6S2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | DMA | 160 mL | CC(=O)N(C)C | C4H9NO
catalyst | copper | 7.6 g | [Cu] | Cu
product | 2-(methylsulfanyl)-4-nitrobenzoic acid | CSC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C8H7NO4S
